US03943149
A slurry of 6.7 g (0.05 moles) of 2-indanol in 75 ml acetic anhydride was cooled to -15°C (ice-acetone bath) and treated with 0.2 ml of 98% sulfuric acid. In about 10 minutes the solid had completely dissolved. The stirred and cooled mixture was then treated over 15 min with a cold solution of 3.6 ml (5.0 g) of 70% nitric acid in 125 ml of acetic anhydride. The mixture was stored at -20°C overnight, then poured into 1 kg of crushed ice. The mixture was stirred until the ice had completely melted and most of the anhydride had reacted. The mixture was extracted with 500 ml of hexane. The organics were washed with saturated bicarbonate and evaporated to 3.0 g of an oil which solidified on standing. Trituration with hexane and recrystallization from the same solvent gave 1.1 g of 2-acetoxy-5-nitroindan, mp 84°-85°C. The aqueous from the hexane extraction yielded 5.3 g of an oil on extraction with benzene. All but 0.9 g of this oil went into hot hexane. Cooling to room temperature gave some oil. The mother liquor was decanted and cooled to 5°C overnight to give 2.0 g (35% total) of the 5-nitro compound, mp 82°-84°C. The filtrate was concentrated to 100 ml cooled again and filtered to give another 0.4 g crude 5-nitro, mp 60°-74°C. The mother liquors were concentrated but gave no solid on cooling. Evaporation afforded 2.0 g (22%) of oily 2-acetoxy-4-nitroindan, contaminated with some 4-nitroindene.

reactant | 2-indanol | 0.05 moles, 6.7 g | C1C(CC2=CC=CC=C12)O | C9H10O
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3.6 ml, 5.0 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxy-5-nitroindan | 1.1 g | C(C)(=O)OC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H11NO4
